Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.130473218180001
[C:5]([H:6])[O:7][H:8].[H:1][C:2][O:3][C:4][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.283863631240001
[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13],-1.32359119795
[H:12].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.62747477866
[C:3](#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.22276111591
[C:9]([H:10])([H:11])[H:12].[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.5015376486
[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-2.8175093927900003
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.026234164180003
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[O:1]=[C:2]>>[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],0.684115763009
[H:14].[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.996593960299999
[H:1][C:2](=[C:3]([H:4])[H:5])[C@:8]([O:7][O:6])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],0.0402359356794
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-1.7210343673
[C:5]([H:6])([H:7])[H:8].[H:1][C:2][O:3][C:4][C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.53145045122
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.415955021409999
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[O:12][O:13]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[O:12][O:13]1,-1.14468543509
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20]>>[H:13].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],4.40959702438
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12],3.76955059773
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:7],5.10319739463
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15],4.8306796157
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[C:2]#[C:3][C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10].[H:1],5.90903876186
[H:1][C:2](=[C:3]([H:4])[H:5])[C:10]([C:7]([O:6])([H:8])[H:9])([H:11])[H:12]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-0.89389070035
[H:1][C:2](=[C:3][H:4])[O:12][C:11][C:8]([C:5]([H:6])[H:7])([H:9])[H:10]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12]1,-4.20184901952
[H:6].[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-5.87639653753
[C:3][H:4].[O:1]=[C:2][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.439905251950001
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-3.68977542489
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7],5.030971646419999
[C:1]#[C:2].[C:3]=[C:4]([H:5])[O:6][O:7]>>[C:1][C:2]#[C:3][C:4]([H:5])[O:6][O:7],-7.35279996025
